US05389626
1(a) Diphenylmethyl 7-phenoxyacetamido-3-phenoxymethyl-3-cephem-4-carboxylate
A solution of 0.55 ml of dimethyl azodicarboxylate in 40 ml of tetrahydrofuran was added dropwise, over a period of 15 minutes, to a solution of 2.00 g of diphenylmethyl 7-phenoxyacetamido-3-hydroxymethyl-3-cephem-4-carboxylate, 990 mg of triphenylphosphine and 430 mg of phenol in 40 ml of tetrahydrofuran, whilst ice-cooling and stirring. After stirring the mixture for a further 15 minutes, whilst ice-cooling, the reaction mixture was diluted with ethyl acetate and washed with a saturated aqueous solution of sodium chloride. The ethyl acetate solution was then dried over anhydrous sodium sulfate and concentrated by distilling off the solvent under reduced pressure. The resulting residue was purified by column chromatography through silica gel, to afford 250 mg of the title compound as a powder.

reactant | dimethyl azodicarboxylate | 0.55 ml | N(=NC(=O)OC)C(=O)OC | C4H6N2O4
reactant | diphenylmethyl 7-phenoxyacetamido-3-hydroxymethyl-3-cephem-4-carboxylate | 2.00 g | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)CO)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C29H26N2O6S
reactant | triphenylphosphine | 990 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phenol | 430 mg | C1(=CC=CC=C1)O | C6H6O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Diphenylmethyl 7-phenoxyacetamido-3-phenoxymethyl-3-cephem-4-carboxylate | 250 mg | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)COC2=CC=CC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C35H30N2O6S
